US08133995B2
Preparation of N-{4-[4-amino-6-(1,3-oxazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoromethyl)pyridin-yl]urea
To a solution of THF (10 mL) and MeOH (10 mL) cooled in an ice/water bath was added 0.5 M sodium methoxide in MeOH (0.96 mL, 0.48 mmol) followed by TosMIC (93 mg, 0.48 mmol). The solution was allowed to stir for 5 min and then N-[4-(4-amino-6-formylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-2-fluorophenyl]-N′-[4-(trifluoromethyl)pyridin-2-yl]urea (73 mg, 0.16 mmol) was added. The solution was heated to 60° C. for 17 h. The reaction mixture was allowed to cool and was transferred to a separatory funnel, diluted with EtOAc (20 mL), washed with aq saturated NaHCO3 (20 mL) and H2O (20 mL). The aqueous layer was back extracted with EtOAc (2×20 mL). The combined organic layers were dried (MgSO4), filtered, evaporated in vacuo and purified by flash chromatography 5:4:1 v/v/v DCM/EtOAc/MeOH the resulting purified fractions were combined and evaporated providing 26 mg of the title compound as a white solid (0.052 mmol, yield 33%). 1H-NMR (DMSO-d6) δ 10.18 (s, 1H), 10.16 to 10.12 (br s, 1H), 8.55 to 8.54 (d, J=5.4 Hz, 1H), 8.35 to 8.31 (t, J=8.3 Hz, 1H), 8.30 (s, 1H), 8.10 (s, 1H), 8.01 (s, 1H), 7.91 (s, 1H), 7.39 to 7.36 (m, 2H), 7.23 to 7.21 (d, J=10.4 Hz, 1H), 6.63 (s, 1H); MS [M+H]+=499.0; LCMS RT=2.85 min.

reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
reactant | TosMIC | 0.48 mmol, 93 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | N-[4-(4-amino-6-formylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-2-fluorophenyl]-N′-[4-(trifluoromethyl)pyridin-2-yl]urea | 0.16 mmol, 73 mg | NC1=NC=NN2C1=C(C(=C2)C=O)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)F | C20H13F4N7O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.48 mmol, 0.96 mL | CO | CH4O
product | N-{4-[4-amino-6-(1,3-oxazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoromethyl)pyridin-yl]urea | 0.052 mmol, 26 mg, yield 33% | NC1=NC=NN2C1=C(C(=C2)C2=CN=CO2)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)F | C22H14F4N8O2
